US07943794B2
Preparation of (S)—N-[(2′-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester hydrochloride
A mixture of potassium carbonate (152.2 g) and de-mineralized water (300 ml) was stirred for 10 to 15 minutes to dissolve the solid. The temperature of the mixture was maintained at 30° to 35° C. and dichloromethane (300 ml) was added. L-Valine benzyl ester tosylate (153.3 g), tetrabutyl ammonium bromide (10.0 g) and 4-bromomethyl-2′-cyanobiphenyl (100 g) were added to the reaction mixture. The reaction mixture was stirred for 20 to 24 hours at 30° to 35° C. After completion of the reaction de-mineralized water (400 ml) was added and the mixture was stirred for 5 minutes. The two phases were separated and the aqueous layer was extracted with dichloromethane (200 ml). The combined organic layer was washed with de-mineralized water (300 ml) and concentrated at 40° to 45° C. Ethyl acetate (600 ml) was then added to the residue and stirred for 5 to 10 minutes to dissolve the residue. The reaction mixture was cooled to 0° to 5° C. and concentrated hydrochloric acid (50 ml) was added to the reaction mixture. The mixture was stirred for 1 hour. The precipitated solid was filtered, washed with ethyl acetate and dried to obtain the title compound.

reactant | potassium carbonate | 152.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | L-Valine benzyl ester tosylate | 153.3 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C1=CC=CC=C1)OC([C@@H](N)C(C)C)=O
reactant | 4-bromomethyl-2′-cyanobiphenyl | 100 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | tetrabutyl ammonium bromide | 10.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 400 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | (S)—N-[(2′-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O | InChI=1S/C26H26N2O2.ClH/c1-19(2)25(26(29)30-18-21-8-4-3-5-9-21)28-17-20-12-14-22(15-13-20)24-11-7-6-10-23(24)16-27;/h3-15,19,25,28H,17-18H2,1-2H3;1H/t25-;/m0./s1
